US08809539B2
A mixture of N,N-bis(2-chloroethyl)carbamic acid tert-butyl ester (1.22 g 5 mmol), dibenzyl malonate (1.42 g 5 mmol), potassium carbonate (1.38 g 10 mmol) and tetrabutylammonium bromide (0.5 g 1.55 mmol) in toluene (20 mL) is heated under reflux. Additional portion of tetrabutylammonium bromide (0.5 g 1.55 mmol) is added after 2 h reflux (twice). After further heating for 2 h (overall 6 h heating) the mixture is cooled back to room temperature and diethyl oxyde is added (50 mL). The organic phase is washed with water, dried and concentrated under reduced pressure. Purification by column chromatography affords piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3,3-dibenzyl ester as an oil.

reactant | N,N-bis(2-chloroethyl)carbamic acid tert-butyl ester | 5 mmol, 1.22 g | C(C)(C)(C)OC(N(CCCl)CCCl)=O | C9H17Cl2NO2
reactant | dibenzyl malonate | 5 mmol, 1.42 g | C(CC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C17H16O4
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 1.55 mmol, 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 1.55 mmol, 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3,3-dibenzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C26H31NO6
